US08809525B2
6-(3-Aminophenoxy)-5-phenyl-1,2,4-triazin-3-amine (25 mg, 8%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.30 g, 1.19 mmol) and 3-amino phenol (0.19 g, 1.78 mmol) according to the general procedure of Example 3.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.19 mmol, 0.30 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-amino phenol | 1.78 mmol, 0.19 g | NC=1C=C(C=CC1)O | C6H7NO
product | 6-(3-Aminophenoxy)-5-phenyl-1,2,4-triazin-3-amine | 25 mg, 8% | NC=1C=C(OC2=C(N=C(N=N2)N)C2=CC=CC=C2)C=CC1 | C15H13N5O
